US09056859B2
A solution of 2-bromophenol (17.3 g, 100 mmol) in 50 mL of H2O was added NaOH (8 g, 200 mmol), 3-bromopropanoic acid (15.3 g, 100 mmol), and the mixture was stirred at reflux overnight. The reaction solution was diluted with H2O, extracted with EtOAc. The aqueous layer was acidified to pH=1˜2 and extracted with EtOAc. The combined organic phase was washed with brine, dried over anhydrous Na2SO4 and concentrated to afford 3-(2-bromophenoxy)propanoic acid.

reactant | 2-bromophenol | 100 mmol, 17.3 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | NaOH | 200 mmol, 8 g | [OH-].[Na+]
reactant | 3-bromopropanoic acid | 100 mmol, 15.3 g | BrCCC(=O)O | C3H5BrO2
solvent | H2O | 50 mL | O | H2O
product | 3-(2-bromophenoxy)propanoic acid | BrC1=C(OCCC(=O)O)C=CC=C1 | C9H9BrO3
